US04916148
A solution of 1,2-dihydro-1,1-dimethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonitrile, (0.35 g) and concentrated sulphuric acid (2 ml) was kept at room temperature for 18 h. The mixture was treated with crushed ice and neutralised with concentrated aqueous ammonia, and the mixture was extracted twice with ethyl acetate. The combined extracts were dried and evaporated to dryness under reduced pressure, and the residue was purified by flash chromatography using methanol:dichloromethane, 1:14 v/v, as eluant, to give 1,2-dihydro-1,1-dimethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carboxamide, m.p. 231°-232° after recrystallisation from a mixture of methanol and ethyl acetate.

reactant | 1,2-dihydro-1,1-dimethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonitrile | 0.35 g | CC1(C2=C(OC1=O)C=CC1=CC(=C(C=C12)CN1N=CN=C1)C#N)C | C18H14N4O2
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | 1,2-dihydro-1,1-dimethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carboxamide | CC1(C2=C(OC1=O)C=CC1=CC(=C(C=C12)CN1N=CN=C1)C(=O)N)C | C18H16N4O3
